US08252792B2
To a suspension of 2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.68 g) in methanol (30 mL) was added a solution of methylamine (0.83 g) in methanol (3 mL). The reaction mixture was stirred for 72 hours and then sodium borohydride (0.76 g) and molecular sieves were added. After stirring for 2 hours, the reaction mixture was filtered and the filtrate reduced in vacuo. The residue was re-dissolved in dichloromethane (30 mL), washed with saturated sodium bicarbonate solution (30 mL), brine (30 mL), dried (MgSO4) and reduced in vacuo to give 2-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.56 g). To a solution of 2-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 g) in dichloromethane (10 mL) was added triethylamine (0.36 mL) followed by methanesulfonyl chloride (0.20 mL). After stirring for 3 hours the reaction mixture was diluted with dichloromethane, washed with sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to yield 2-[(methanesulfonyl-methyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a white solid (0.63 g). Treatment of this compound with HCl in dichloromethane/methanol yielded N-methyl-N-pyrrolidin-2-ylmethyl-methanesulfonamide hydrochloride (0.49 g).

reactant | 2-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1C(CCC1)CNC | C11H22N2O2
reactant | triethylamine | 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.20 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[(methanesulfonyl-methyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.63 g | C(C)(C)(C)OC(=O)N1C(CCC1)CN(C)S(=O)(=O)C | C12H24N2O4S
